US07105544B2
N-{3-[1-(3-{[BIS(4-METHYLPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-FLUOROPHENYL}-2-METHYLPROPANAMIDE
Example 132 was prepared from bis(4-methylphenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.72 (s, 1H), 7.36–7.31 (m, 1H), 7.28–7.21 (m, 1H), 7.12–7.07 (m, 3H), 7.03–6.99 (m, 5H), 6.86–6.80 (m, 1H), 6.79–6.75 (m, 1H), 4.74 (s, 1H), 3.33–3.25 (m, 2H), 2.85–2.77 (m, 2H), 2.72–2.62 (m, 1H), 2.40 (septet, 1H, J=6.7 Hz), 2.28 (t, 2H, J=6.6 Hz), 2.21 (m, 6H), 1.94–1.84 (m, 2H), 1.65–1.52 (m, 6H), 1.71 (d, 6H, J=6.6 Hz); ESMS m/e: 544.3 (M+H)+; Anal. Calc. for C34H42FN3O2.HCl.0.10 CHCl3: C, 70.17; H, 7.35; N, 7.10. Found: C, 70.35; H, 6.99; N, 7.10.

reactant | bis(4-methylphenyl)acetic acid | CC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)C | C16H16O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[1-(3-{[BIS(4-METHYLPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-FLUOROPHENYL}-2-METHYLPROPANAMIDE | CC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O)C1=CC=C(C=C1)C | C34H42FN3O2
